US20010036944A1
2-(2-Trifluoromethyl-phenylsulfamoyl)-benzoic acid methyl ester
Methyl 2-(chlorosulfonyl)benzoate (23.5 g, 0.1 mol) was dissolved in 150 mL of anhydrous pyridine in a 500 mL flask. Catalytic amount of DMAP (4-dimethylaminopyridine) (0.04 eq) was added. 2-Trifluoromethylaniline (20 g, 0.12 mol) was added to the reaction mixture, and it was allowed to stir at room temperature overnight. Pyridine was removed, and the residue was diluted with 250 mL of EtOAc. It was then washed with IN HCl solution followed by brine. After drying with MgSO4, the EtOAc was removed in vacuo to give a thick red oil. The crude product was recrystallized from hexane/Et2O to give the product IA as white crystals (17.63 g, 49% yield).

reactant | Methyl 2-(chlorosulfonyl)benzoate | 0.1 mol, 23.5 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
reactant | 2-Trifluoromethylaniline | 0.12 mol, 20 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.04 eq | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(2-Trifluoromethyl-phenylsulfamoyl)-benzoic acid methyl ester | 17.63 g, 49% yield | COC(C1=C(C=CC=C1)S(NC1=C(C=CC=C1)C(F)(F)F)(=O)=O)=O | C15H12F3NO4S
